US05037827
(2) Synthesis of 2-O-methyl-1-O-(3-octadecylcarbamoyloxy)propylcarbamoyl-3-O-(2-pyridyl)methylcarbamoylglycerol
1.56 g of phenyl chloroformate was added dropwise to 50 ml of a solution of 2.9 g of 1-O-(3-hydroxy)propylcarbamoyl-2-O-methyl-3-O-(2-pyridyl)methylcarbamoylglycerol and 1.3 g of pyridine in methylene chloride under cooling with ice and the mixture was stirred for 15 min. The reaction solution was washed with a saturated aqueous solution of sodium hydrogen-carbonate and then with water and dried over anhydrous magnesium sulfate. The solvent was removed and a residue thus formed was mixed with 3 g of octadecylamine. The mixture was stirred at 80° C. for 1 h. After cooling, the product was purified by silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/1) to obtain 3 g of the intended product.

reactant | phenyl chloroformate | 1.56 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 1-O-(3-hydroxy)propylcarbamoyl-2-O-methyl-3-O-(2-pyridyl)methylcarbamoylglycerol | 2.9 g | OCCCNC(=O)OCC(OC)COC(NCC1=NC=CC=C1)=O | C15H23N3O6
reactant | pyridine | 1.3 g | N1=CC=CC=C1 | C5H5N
reactant | octadecylamine | 3 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-O-methyl-1-O-(3-octadecylcarbamoyloxy)propylcarbamoyl-3-O-(2-pyridyl)methylcarbamoylglycerol | 3 g | COC(COC(NCCCOC(NC(CC)CCCCCCCCCCCCCCC)=O)=O)COC(NCC1=NC=CC=C1)=O | C34H60N4O7
